US07759361B2
6.1 2-Propoxymethyl-1-aza-bicyclo[2.2.2]octan-3-one
To a stirred solution of 2-methylene-3-quinuclidinone (100 mg) in dry dichloromethane (5 ml) propanol (1 equiv., 0.04 ml) was added in presence of molecular sieves (4 Å). The reaction mixture was stirred at RT for overnight. The reaction mixture was filtered and the filtrate was concentrate to get crude product, which was purified (70 mg, 50%) by column chromatography on silica gel using 0.5% methanol in chloroform as eluent.

reactant | 2-methylene-3-quinuclidinone | 100 mg | C=C1N2CCC(C1=O)CC2 | C8H11NO
reactant | dichloromethane | 5 ml, 1 equiv. | ClCCl | CH2Cl2
product | 2-Propoxymethyl-1-aza-bicyclo[2.2.2]octan-3-one | C(CC)OCC1N2CCC(C1=O)CC2 | C11H19NO2
